US06992094B1
Ethyl 6-[3-(3-ethoxycarbonylpropoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]-nicotinate
432 mg (102.0 mmol) of ethyl 6-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro 2-naphthylselanyl)nicotinate, 276 mg (2 mmol) of potassium carbonate and 390 mg (2 mmol) of ethyl 4-bromobutanoate are introduced into a three-necked flask. The mixture is heated at 80° C. for 12 h. The reaction medium is poured into water and extracted with ethyl ether, and the organic phase is separated out by settling, washed with water, dried over magnesium sulphate and evaporated. After purification by flash chromatography (9 heptane/1 EtOAc), 467 mg (85%) of the expected compound are collected in the form of an orange-coloured oil.

reactant | ethyl 6-(3-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro 2-naphthylselanyl)nicotinate | 102.0 mmol, 432 mg | OC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(C(=O)OCC)C=C1 | C22H27NO3Se
reactant | potassium carbonate | 2 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromobutanoate | 2 mmol, 390 mg | BrCCCC(=O)OCC | C6H11BrO2
solvent | water | O | H2O
product | Ethyl 6-[3-(3-ethoxycarbonylpropoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthylselanyl]-nicotinate | C(C)OC(=O)CCCOC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)[Se]C1=NC=C(C(=O)OCC)C=C1 | C28H37NO5Se
